US08629271B2
a) tert-Butyl 4-(cyanomethyl)-4-hydroxypiperidine-1-carboxylate
A solution of tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (2 g) in DMF (20 mL) was treated with potassium cyanide (0.672 g) and the resultant mixture stirred at 20° C. for 4 days. The mixture was partitioned between ethyl acetate and brine, the organic layer was washed twice with brine, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 60% ethyl acetate in isohexane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 1.18 g.

reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 2 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | potassium cyanide | 0.672 g | [C-]#N.[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(cyanomethyl)-4-hydroxypiperidine-1-carboxylate | C(#N)CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C12H20N2O3
